US06303780B1
Part B: Preparation of 2-(5-(t-Butoxycarbonylamino)-2-chloropyrid-4-yl)-4-cyclopropyl-1,1,1-trifluoro-3-butyn-2-ol
To a stirred, cooled (−50° C.) solution of 643 mg(2.8 mmol) of 5-(t-butoxycarbonylamino)-2-chloropyridine in 8 mL of anhydrous THF was added 4.7 mL(7.9 mmol) of t-BuLi in pentane over 3 min. The solution was stirred an additional 35 min. at −50° C. after which time 1 mL(large excess) of 4-cyclopropyl-1,1,1-trifluoro-3-butyn-2-one. The solution was stirred an additional 20 min., warming to ambient temperature. The reaction was poured into 10% aq. citric acid, and the mixture was extracted with 1:1 ether-ethyl acetate. The organic extract was washed with saturated aq. NaHCO3, then brine, dried (MgSO4), and concentrated under reduced pressure. Chromatography on silica gel(gradient elution with 6:1 then 3:1 hexanes-ethyl acetate) afforded, after removal of solvent, 620 mg(56%) of 2-(5-(t-butoxycarbonylamino)-2-chloropyrid-4-yl)-4-cyclopropyl-1,1,1-trifluoro-3-butyn-2-ol as an amorphous solid. Mass spec.(NH3—CI): 391((M+H)+, 100%); 291((M+H-t-Boc)+, 49%). 1H NMR(300 MHz, CDCl3) δ 9.08(br. s, 1H); 8.29(br. s, 1H); 7.59(s, 1H); 1.50(s, 9H); 1.37-1.43(m, 1H); 0.81-0.97(m, 4H).

reactant | 5-(t-butoxycarbonylamino)-2-chloropyridine | 2.8 mmol, 643 mg | C(C)(C)(C)OC(=O)NC=1C=CC(=NC1)Cl | C10H13ClN2O2
reactant | t-BuLi | 7.9 mmol, 4.7 mL | [Li]C(C)(C)C
reactant | 4-cyclopropyl-1,1,1-trifluoro-3-butyn-2-one | 1 mL | C1(CC1)C#CC(C(F)(F)F)=O | C7H5F3O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | 2-(5-(t-Butoxycarbonylamino)-2-chloropyrid-4-yl)-4-cyclopropyl-1,1,1-trifluoro-3-butyn-2-ol | C(C)(C)(C)OC(=O)NC=1C(=CC(=NC1)Cl)C(C(F)(F)F)(C#CC1CC1)O | C17H18ClF3N2O3
